US04894369
Propanoyl chloride (5.24 ml) was added to a solution of 1-[(2β,3α,5α,16β,17β)-3-hydroxy-2(4-morpholinyl)-17-(1-oxopropoxy)-androstan-16-yl]-1-methylpiperidinium bromide (2.62 g) in dichloro-methane (33 ml) and the solution was set aside at room temperature for 20 h. The solution was evaporated to dryness under reduced pressure to give a gum, which was taken up in dichloromethane (15 ml) and purified by chromatography on alumina (Fluka type 5016A) (62 g) to give 1-[(2β,3α,5α,16β,17β)-2-(4-morpholinyl)-3,17-bis(1-oxopropoxy)-androstan-16-yl]-1-methylpiperidinium bromide as a non-crystalline solid (1.99 g), [α]D20 =-16.7° (c 1.09 in CHCl3).

reactant | Propanoyl chloride | 5.24 ml | C(CC)(=O)Cl | C3H5ClO
reactant | 1-[(2β,3α,5α,16β,17β)-3-hydroxy-2(4-morpholinyl)-17-(1-oxopropoxy)-androstan-16-yl]-1-methylpiperidinium bromide | 2.62 g | [Br-].O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCOCC1)C)OC(CC)=O)[N+]1(CCCCC1)C
solvent | dichloro-methane | 33 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-[(2β,3α,5α,16β,17β)-2-(4-morpholinyl)-3,17-bis(1-oxopropoxy)-androstan-16-yl]-1-methylpiperidinium bromide | 1.99 g | [Br-].N1(CCOCC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)OC(CC)=O)[N+]1(CCCCC1)C)OC(CC)=O | InChI=1S/C35H59N2O5.BrH/c1-6-31(38)41-30-21-24-11-12-25-26(35(24,4)23-28(30)36-15-19-40-20-16-36)13-14-34(3)27(25)22-29(33(34)42-32(39)7-2)37(5)17-9-8-10-18-37;/h24-30,33H,6-23H2,1-5H3;1H/q+1;/p-1/t24-,25+,26-,27-,28-,29-,30-,33-,34-,35-;/m0./s1
